US06455744B1
SYNTHESIS OF 1,2-DIFLUORO-6-(trans-4-PROPYLCYCLOHEXYL)NAPHTHALENE USING BUFFERED AMMONIA
A mixture of 1,1,2,2-tetrafluoro-6-(trans-4-propylcyclohexyl)-1,2-dihydronaphthalene and 1,1,2,4-tetrafluoro-6-(trans-4-propylcyclohexyl)-1,2-dihydronaphthalene, 25.6 g (78.4 mmol) in THF was stirred at ambient temperature with zinc dust (25.0 g, 382 mmol) and a solution containing ammonium chloride dissolved in aqueous 30% NH4OH. The reaction was terminated after 48 h. The mixture was filtered, and the zinc was washed with hexanes. The filtrate was transferred to a separatory funnel, the phases were separated, and the solvent was evaporated from the organic phase. The weight of product recovered was 21.9 g. GC analysis of the product showed that it contained 0.2% 1,1,2,2-tetrafluoro-6-(trans-4-propylcyclohexyl)-1,2-dihydronaphthalene, 2.1% 1,2,4-trifluoro-6-(trans-4-propylcyclohexyl)naphthalene, and 93.1% 1,2-difluoro-6-(trans-4-propylcyclohexyl)naphthalene.

reactant | 1,1,2,2-tetrafluoro-6-(trans-4-propylcyclohexyl)-1,2-dihydronaphthalene | FC1(C(C=CC2=CC(=CC=C12)[C@@H]1CC[C@H](CC1)CCC)(F)F)F | C19H22F4
reactant | 1,1,2,4-tetrafluoro-6-(trans-4-propylcyclohexyl)-1,2-dihydronaphthalene | FC1(C(C=C(C2=CC(=CC=C12)[C@@H]1CC[C@H](CC1)CCC)F)F)F | C19H22F4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
solvent | NH4OH | [NH4+].[OH-]
catalyst | zinc | 382 mmol, 25.0 g | [Zn] | Zn
product | 1,2-DIFLUORO-6-(trans-4-PROPYLCYCLOHEXYL)NAPHTHALENE | FC1=C(C=CC2=CC(=CC=C12)[C@@H]1CC[C@H](CC1)CCC)F | C19H22F2
